US07186729B2
2-(5-{3-[6-chloro-1,2-dihydro-2-oxo-spiro[4H-3,1-benzoxazin-4,4′-piperidin]-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol
A solution of 6-chloro-1,2-dihydro-2-oxo-spiro[4H-3,1-benzoxazin-4,4′-piperidine] (Made by the procedure of Bock, et al. GB2,355,465, 0.25 g, 0.7 mmol) in isopropanol (5 mL) was treated with 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.19 g, 0.50 mmol) and catalytic potassium iodide. The solution was stirred at 80° C. for 5 hr, and evaporated in vacuo. The residue was purified by reverse-phase preparative HPLC to yield 0.029 g (10%) of the title compound, 1H-NMR (CD3OD) δ: 1.50 (3H, s), 2.18 (2H, brs), 2.95–3.2 (6H, m), 5.30 (2H, brs), 6.18 (1H, t), 6.79(1H, m), 6.92 (1H, m), 7.12 (1H, m), 7.38 (2H, m), 7.48 (2H, m), 7.81 (2H, m), 8.31 (1H, m), 8.55 (1H, d).

reactant | 6-chloro-1,2-dihydro-2-oxo-spiro[4H-3,1-benzoxazin-4,4′-piperidine] | ClC=1C=CC2=C(C1)C1(CCNCC1)OC(N2)=O | C12H13ClN2O2
reactant | 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.50 mmol, 0.19 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
reactant | potassium iodide | [I-].[K+]
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 2-(5-{3-[6-chloro-1,2-dihydro-2-oxo-spiro[4H-3,1-benzoxazin-4,4′-piperidin]-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol | 0.029 g, 10% | ClC=1C=CC2=C(C1)C1(CCNCC1)OC(N2CCC=C2C1=C(OCC3=C2C=CC=N3)C=CC(=C1)C(C)(C)O)=O | C31H32ClN3O4
